US05084463
Step 3) Preparation of 6-Methoxy-2-(methylamino)methylquinoline
2-(Chloromethyl)-6-methoxyquinoline (0.40 g, 2.05 mmol) was dissolved in ethanolic methylamine (15 mL, 33 wt % in EtOH) at 0° C. under a nitrogen atmosphere. After 10 minutes the reaction mixture was warmed to room temperature and stirring was continued for 1.5 hours. The reaction mixture was concentrated, partitioned between 10% K2CO3 /ethyl acetate, dried over MgSO4 and evaporated under reduced pressure to afford 0.30 g (76%) of a pale yellow oil which was used directly in the next step.

reactant | 2-(Chloromethyl)-6-methoxyquinoline | 2.05 mmol, 0.40 g | ClCC1=NC2=CC=C(C=C2C=C1)OC | C11H10ClNO
reactant | methylamine | 15 mL | CN | CH5N
product | 6-Methoxy-2-(methylamino)methylquinoline | 0.30 g, 76% | COC=1C=C2C=CC(=NC2=CC1)CNC | C12H14N2O
